US09108921B2
Step E: 4-(2-fluoro-2-methylpropyl)piperidin-4-ol (43F)
To a round bottom flask was added benzyl-4-(benzyloxymethoxy)-4-(2-fluoro-2-methylpropyl)piperidine-1-carboxylate (50 mg, 0.12 mmol), Pd/C (20 mg), and methanol (5 mL). The mixture was stirred at room temperature for 16 hrs under hydrogen atmosphere. The reaction mixture was filtered to get a solution, which was concentrated to give the desired product. The crude product was used directly for the next step. LC-MS: m/z 176.2 (M+H)+

reactant | benzyl-4-(benzyloxymethoxy)-4-(2-fluoro-2-methylpropyl)piperidine-1-carboxylate | 0.12 mmol, 50 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)(CC(C)(C)F)OCOCC1=CC=CC=C1 | C25H32FNO4
catalyst | Pd/C | 20 mg | [Pd] | Pd
solvent | methanol | 5 mL | CO | CH4O
product | 4-(2-fluoro-2-methylpropyl)piperidin-4-ol | FC(CC1(CCNCC1)O)(C)C | C9H18FNO
